US05250527
Sodium nitrite (36 g) was added in portions to a stirred solution of 4 -amino-3 -chloro-2 -picoline (24.85 g) in conc. hydrochloric acid (750 ml) cooled to 0°-5°. After 1 hour at 0°-5 ° and a further 2 hours at room temperature the mixture was basified (NaOH), allowing the temperature to rise to ca. 50°, and extracted with ether. After drying (K2CO3 ), the extract was evaporated to dryness to give 3,4 -dichloro-2 -picoline (26.5 g) as a low melting solid.

reactant | Sodium nitrite | 36 g | N(=O)[O-].[Na+]
reactant | 4 -amino-3 -chloro-2 -picoline | 24.85 g | NC1=C(C(=NC=C1)C)Cl | C6H7ClN2
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | 750 ml | Cl | ClH
product | 3,4 -dichloro-2 -picoline | 26.5 g | ClC=1C(=NC=CC1Cl)C | C6H5Cl2N
